US07432287B2
Preparation of 5-(2-fluoro-1-fluoromethyl-ethoxy)-3-(6-methanesulfonylpyridin-3-yloxy)-N-(3-methyl-[1,2,4]-thiadiazol-5-yl)benzamide
The compound of Production Example 156 was obtained as a white amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-methanesulfonylpyridine, 1,3-difluoro-2-propanol and 5-amino-3-methyl-[1,2,4]thiadiazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-methanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
reactant | 1,3-difluoro-2-propanol | FCC(CF)O | C3H6F2O
reactant | 5-amino-3-methyl-[1,2,4]thiadiazole | NC1=NC(=NS1)C | C3H5N3S
product | 5-(2-fluoro-1-fluoromethyl-ethoxy)-3-(6-methanesulfonylpyridin-3-yloxy)-N-(3-methyl-[1,2,4]-thiadiazol-5-yl)benzamide | FCC(OC=1C=C(C=C(C(=O)NC2=NC(=NS2)C)C1)OC=1C=NC(=CC1)S(=O)(=O)C)CF | C19H18F2N4O5S2
